*speed_ibis_format
.inc 'CKTDef.sp'
.inc 'Wmodel.sp'
.inc 'WireLeadModel.sp'
.inc 'ViaModel.sp'
.inc ''
.Tran 4.000000e-11 1.600000e-08

.option GSHUNT=1e-12 GSHDC=1e-12 
********Circuits********
V_PWR_VCC_1V1 IPGPWR_VCC_1V1 gnd! 1.100000e+00
V_PWR_VCC_1V2 IPGPWR_VCC_1V2 gnd! 1.200000e+00
V_PWR_VCC_1V8 IPGPWR_VCC_1V8 gnd! 1.800000e+00
V_PWR_VCC_3V3 IPGPWR_VCC_3V3 gnd! 3.300000e+00
V_PWR_VCC_5V IPGPWR_VCC_5V gnd! 5.000000e+00
V_PWR_VCC_5V5 IPGPWR_VCC_5V5 gnd! 5.000000e+00
X_CH1 Node2411!!1::MIPI_DSI0_DATA3_N Node2996!!10::MIPI_DSI0_DATA2_P Node1685!!11::MIPI_DSI1_DATA2_P Node1525!!12::MIPI_DSI1_DATA2_N Node2029!!13::MIPI_DSI1_DATA1_P Node1792!!14::MIPI_DSI1_DATA1_N 
+ Node1081!!15::MIPI_DSI1_CLK_P Node973!!16::MIPI_DSI1_CLK_N Node2237!!17::MIPI_DSI1_DATA0_P Node2159!!18::MIPI_DSI1_DATA0_N Node1276!!19::MIPI_DSI1_DATA3_P 
+ Node2941!!2::MIPI_DSI0_DATA3_P Node1207!!20::MIPI_DSI1_DATA3_N gnd! IPGPWR_VCC_5V5 IPGPWR_VCC_1V8 
+ IPGPWR_VCC_1V8 gnd! gnd! gnd! gnd! 
+ Node4060!!29::RESX Node2636!!3::MIPI_DSI0_DATA0_N Node4827!!30 Node4826!!31 Node4001!!32::PWM 
+ gnd! gnd! gnd! IPGPWR_VEE_5V5 gnd! 
+ gnd! Node4811!!39::VCC_LED_AB Node3405!!4::MIPI_DSI0_DATA0_P Node4812!!40::VCC_LED_AB Node2321!!5::MIPI_DSI0_CLK_N 
+ Node2782!!6::MIPI_DSI0_CLK_P Node2489!!7::MIPI_DSI0_DATA1_N Node3024!!8::MIPI_DSI0_DATA1_P Node2468!!9::MIPI_DSI0_DATA2_N Node4825!!P1 
+ Node4824!!P2 Node4823!!P3 Node4822!!P4 CH1~
X_ESD1 Node19!!1::HDMI_DATA2_P Node21!!10::HDMI_DATA2_P Node15!!2::HDMI_DATA2_N gnd! Node27!!4::HDMI_DATA1_P Node39!!5::HDMI_DATA1_N 
+ Node41!!6::HDMI_DATA1_N Node29!!7::HDMI_DATA1_P gnd! Node17!!9::HDMI_DATA2_N ESD1~
X_ESD2 Node23!!1::HDMI_DATA0_P Node25!!10::HDMI_DATA0_P Node31!!2::HDMI_DATA0_N gnd! Node35!!4::HDMI_CLK_P Node43!!5::HDMI_CLK_N 
+ Node45!!6::HDMI_CLK_N Node36!!7::HDMI_CLK_P gnd! Node32!!9::HDMI_DATA0_N ESD2~
X_HDMI1 Node20!!1::HDMI_DATA2_P Node37!!10::HDMI_CLK_P gnd! Node44!!12::HDMI_CLK_N Node338!!13 Node337!!14 
+ Node288!!15::SCL Node283!!16::SDA gnd! Node9!!18::VCC_HDMIRX_IN Node279!!19::HDP 
+ gnd! Node4268!!20::N271809 Node4269!!21::N271809 Node4270!!22::N271809 Node4275!!23::N271809 
+ Node16!!3::HDMI_DATA2_N Node28!!4::HDMI_DATA1_P gnd! Node40!!6::HDMI_DATA1_N Node24!!7::HDMI_DATA0_P 
+ gnd! Node33!!9::HDMI_DATA0_N HDMI1~
X_U8 Node307!!A1::N27399713 gnd! Node319!!A2::N279408 Node290!!A3::SCL Node320!!A4::N2739972 Node66!!A5::MIPI_DSI1_DATA3_P 
+ Node68!!A6::MIPI_DSI1_DATA2_P Node64!!A7::MIPI_DSI1_CLK_P Node101!!A8::MIPI_DSI1_DATA1_P Node103!!A9::MIPI_DSI1_DATA0_P IPGPWR_VCC_3V3 
+ IPGPWR_VCC_1V2 IPGPWR_VCC_1V1 Node282!!B3::SDA Node11!!B4::VCC_HDMIRX_IN Node65!!B5::MIPI_DSI1_DATA3_N 
+ Node67!!B6::MIPI_DSI1_DATA2_N Node63!!B7::MIPI_DSI1_CLK_N Node69!!B8::MIPI_DSI1_DATA1_N Node102!!B9::MIPI_DSI1_DATA0_N Node34!!C1::HDMI_CLK_P 
+ IPGPWR_VCC_1V1 Node42!!C2::HDMI_CLK_N gnd! Node22!!D1::HDMI_DATA0_P Node110!!D10::MIPI_DSI0_DATA3_P 
+ Node30!!D2::HDMI_DATA0_N gnd! gnd! gnd! gnd! 
+ Node105!!D9::MIPI_DSI0_DATA3_N Node26!!E1::HDMI_DATA1_P Node111!!E10::MIPI_DSI0_DATA2_P Node38!!E2::HDMI_DATA1_N gnd! 
+ gnd! gnd! gnd! Node106!!E9::MIPI_DSI0_DATA2_N Node18!!F1::HDMI_DATA2_P 
+ Node109!!F10::MIPI_DSI0_CLK_P Node14!!F2::HDMI_DATA2_N gnd! gnd! gnd! 
+ gnd! Node104!!F9::MIPI_DSI0_CLK_N IPGPWR_VCC_3V3 Node112!!G10::MIPI_DSI0_DATA1_P IPGPWR_VCC_1V1 
+ gnd! gnd! Node341!!G6 gnd! Node107!!G9::MIPI_DSI0_DATA1_N 
+ gnd! Node180!!H10::MIPI_DSI0_DATA0_P IPGPWR_VCC_3V3 Node108!!H9::MIPI_DSI0_DATA0_N Node277!!J1::N284077 
+ IPGPWR_VCC_1V2 Node342!!J2 Node181!!J3::INT Node349!!J4 Node344!!J5 
+ Node345!!J6 IPGPWR_VCC_1V8 Node346!!J8 Node347!!J9 Node275!!K1::N284159 
+ gnd! Node273!!K2::N284174 Node183!!K3::I2C_SDA Node182!!K4::I2C_SCL Node343!!K5 
+ IPGPWR_VCC_1V1 Node348!!K7 Node188!!K8::RESETN Node270!!K9::N284871 U8~
RHighZ_Node101!!A8::MIPI_DSI1_DATA1_P Node101!!A8::MIPI_DSI1_DATA1_P gnd! 1e12
RHighZ_Node102!!B9::MIPI_DSI1_DATA0_N Node102!!B9::MIPI_DSI1_DATA0_N gnd! 1e12
RHighZ_Node103!!A9::MIPI_DSI1_DATA0_P Node103!!A9::MIPI_DSI1_DATA0_P gnd! 1e12
RHighZ_Node104!!F9::MIPI_DSI0_CLK_N Node104!!F9::MIPI_DSI0_CLK_N gnd! 1e12
RHighZ_Node106!!E9::MIPI_DSI0_DATA2_N Node106!!E9::MIPI_DSI0_DATA2_N gnd! 1e12
RHighZ_Node107!!G9::MIPI_DSI0_DATA1_N Node107!!G9::MIPI_DSI0_DATA1_N gnd! 1e12
RHighZ_Node108!!H9::MIPI_DSI0_DATA0_N Node108!!H9::MIPI_DSI0_DATA0_N gnd! 1e12
RHighZ_Node1081!!15::MIPI_DSI1_CLK_P Node1081!!15::MIPI_DSI1_CLK_P gnd! 1e12
RHighZ_Node109!!F10::MIPI_DSI0_CLK_P Node109!!F10::MIPI_DSI0_CLK_P gnd! 1e12
RHighZ_Node11!!B4::VCC_HDMIRX_IN Node11!!B4::VCC_HDMIRX_IN gnd! 1e12
RHighZ_Node111!!E10::MIPI_DSI0_DATA2_P Node111!!E10::MIPI_DSI0_DATA2_P gnd! 1e12
RHighZ_Node112!!G10::MIPI_DSI0_DATA1_P Node112!!G10::MIPI_DSI0_DATA1_P gnd! 1e12
RHighZ_Node1207!!20::MIPI_DSI1_DATA3_N Node1207!!20::MIPI_DSI1_DATA3_N gnd! 1e12
RHighZ_Node1276!!19::MIPI_DSI1_DATA3_P Node1276!!19::MIPI_DSI1_DATA3_P gnd! 1e12
RHighZ_Node14!!F2::HDMI_DATA2_N Node14!!F2::HDMI_DATA2_N gnd! 1e12
RHighZ_Node15!!2::HDMI_DATA2_N Node15!!2::HDMI_DATA2_N gnd! 1e12
RHighZ_Node1525!!12::MIPI_DSI1_DATA2_N Node1525!!12::MIPI_DSI1_DATA2_N gnd! 1e12
RHighZ_Node16!!3::HDMI_DATA2_N Node16!!3::HDMI_DATA2_N gnd! 1e12
RHighZ_Node1685!!11::MIPI_DSI1_DATA2_P Node1685!!11::MIPI_DSI1_DATA2_P gnd! 1e12
RHighZ_Node17!!9::HDMI_DATA2_N Node17!!9::HDMI_DATA2_N gnd! 1e12
RHighZ_Node1792!!14::MIPI_DSI1_DATA1_N Node1792!!14::MIPI_DSI1_DATA1_N gnd! 1e12
RHighZ_Node18!!F1::HDMI_DATA2_P Node18!!F1::HDMI_DATA2_P gnd! 1e12
RHighZ_Node180!!H10::MIPI_DSI0_DATA0_P Node180!!H10::MIPI_DSI0_DATA0_P gnd! 1e12
RHighZ_Node181!!J3::INT Node181!!J3::INT gnd! 1e12
RHighZ_Node182!!K4::I2C_SCL Node182!!K4::I2C_SCL gnd! 1e12
RHighZ_Node183!!K3::I2C_SDA Node183!!K3::I2C_SDA gnd! 1e12
RHighZ_Node188!!K8::RESETN Node188!!K8::RESETN gnd! 1e12
RHighZ_Node19!!1::HDMI_DATA2_P Node19!!1::HDMI_DATA2_P gnd! 1e12
RHighZ_Node20!!1::HDMI_DATA2_P Node20!!1::HDMI_DATA2_P gnd! 1e12
RHighZ_Node2029!!13::MIPI_DSI1_DATA1_P Node2029!!13::MIPI_DSI1_DATA1_P gnd! 1e12
RHighZ_Node21!!10::HDMI_DATA2_P Node21!!10::HDMI_DATA2_P gnd! 1e12
RHighZ_Node2159!!18::MIPI_DSI1_DATA0_N Node2159!!18::MIPI_DSI1_DATA0_N gnd! 1e12
RHighZ_Node22!!D1::HDMI_DATA0_P Node22!!D1::HDMI_DATA0_P gnd! 1e12
RHighZ_Node2237!!17::MIPI_DSI1_DATA0_P Node2237!!17::MIPI_DSI1_DATA0_P gnd! 1e12
RHighZ_Node23!!1::HDMI_DATA0_P Node23!!1::HDMI_DATA0_P gnd! 1e12
RHighZ_Node2321!!5::MIPI_DSI0_CLK_N Node2321!!5::MIPI_DSI0_CLK_N gnd! 1e12
RHighZ_Node24!!7::HDMI_DATA0_P Node24!!7::HDMI_DATA0_P gnd! 1e12
RHighZ_Node2468!!9::MIPI_DSI0_DATA2_N Node2468!!9::MIPI_DSI0_DATA2_N gnd! 1e12
RHighZ_Node2489!!7::MIPI_DSI0_DATA1_N Node2489!!7::MIPI_DSI0_DATA1_N gnd! 1e12
RHighZ_Node25!!10::HDMI_DATA0_P Node25!!10::HDMI_DATA0_P gnd! 1e12
RHighZ_Node26!!E1::HDMI_DATA1_P Node26!!E1::HDMI_DATA1_P gnd! 1e12
RHighZ_Node2636!!3::MIPI_DSI0_DATA0_N Node2636!!3::MIPI_DSI0_DATA0_N gnd! 1e12
RHighZ_Node27!!4::HDMI_DATA1_P Node27!!4::HDMI_DATA1_P gnd! 1e12
RHighZ_Node270!!K9::N284871 Node270!!K9::N284871 gnd! 1e12
RHighZ_Node273!!K2::N284174 Node273!!K2::N284174 gnd! 1e12
RHighZ_Node275!!K1::N284159 Node275!!K1::N284159 gnd! 1e12
RHighZ_Node277!!J1::N284077 Node277!!J1::N284077 gnd! 1e12
RHighZ_Node2782!!6::MIPI_DSI0_CLK_P Node2782!!6::MIPI_DSI0_CLK_P gnd! 1e12
RHighZ_Node279!!19::HDP Node279!!19::HDP gnd! 1e12
RHighZ_Node28!!4::HDMI_DATA1_P Node28!!4::HDMI_DATA1_P gnd! 1e12
RHighZ_Node282!!B3::SDA Node282!!B3::SDA gnd! 1e12
RHighZ_Node283!!16::SDA Node283!!16::SDA gnd! 1e12
RHighZ_Node288!!15::SCL Node288!!15::SCL gnd! 1e12
RHighZ_Node29!!7::HDMI_DATA1_P Node29!!7::HDMI_DATA1_P gnd! 1e12
RHighZ_Node290!!A3::SCL Node290!!A3::SCL gnd! 1e12
RHighZ_Node2996!!10::MIPI_DSI0_DATA2_P Node2996!!10::MIPI_DSI0_DATA2_P gnd! 1e12
RHighZ_Node30!!D2::HDMI_DATA0_N Node30!!D2::HDMI_DATA0_N gnd! 1e12
RHighZ_Node3024!!8::MIPI_DSI0_DATA1_P Node3024!!8::MIPI_DSI0_DATA1_P gnd! 1e12
RHighZ_Node307!!A1::N27399713 Node307!!A1::N27399713 gnd! 1e12
RHighZ_Node31!!2::HDMI_DATA0_N Node31!!2::HDMI_DATA0_N gnd! 1e12
RHighZ_Node319!!A2::N279408 Node319!!A2::N279408 gnd! 1e12
RHighZ_Node32!!9::HDMI_DATA0_N Node32!!9::HDMI_DATA0_N gnd! 1e12
RHighZ_Node320!!A4::N2739972 Node320!!A4::N2739972 gnd! 1e12
RHighZ_Node33!!9::HDMI_DATA0_N Node33!!9::HDMI_DATA0_N gnd! 1e12
RHighZ_Node337!!14 Node337!!14 gnd! 1e12
RHighZ_Node338!!13 Node338!!13 gnd! 1e12
RHighZ_Node34!!C1::HDMI_CLK_P Node34!!C1::HDMI_CLK_P gnd! 1e12
RHighZ_Node3405!!4::MIPI_DSI0_DATA0_P Node3405!!4::MIPI_DSI0_DATA0_P gnd! 1e12
RHighZ_Node341!!G6 Node341!!G6 gnd! 1e12
RHighZ_Node342!!J2 Node342!!J2 gnd! 1e12
RHighZ_Node343!!K5 Node343!!K5 gnd! 1e12
RHighZ_Node344!!J5 Node344!!J5 gnd! 1e12
RHighZ_Node345!!J6 Node345!!J6 gnd! 1e12
RHighZ_Node346!!J8 Node346!!J8 gnd! 1e12
RHighZ_Node347!!J9 Node347!!J9 gnd! 1e12
RHighZ_Node348!!K7 Node348!!K7 gnd! 1e12
RHighZ_Node349!!J4 Node349!!J4 gnd! 1e12
RHighZ_Node35!!4::HDMI_CLK_P Node35!!4::HDMI_CLK_P gnd! 1e12
RHighZ_Node36!!7::HDMI_CLK_P Node36!!7::HDMI_CLK_P gnd! 1e12
RHighZ_Node37!!10::HDMI_CLK_P Node37!!10::HDMI_CLK_P gnd! 1e12
RHighZ_Node38!!E2::HDMI_DATA1_N Node38!!E2::HDMI_DATA1_N gnd! 1e12
RHighZ_Node39!!5::HDMI_DATA1_N Node39!!5::HDMI_DATA1_N gnd! 1e12
RHighZ_Node40!!6::HDMI_DATA1_N Node40!!6::HDMI_DATA1_N gnd! 1e12
RHighZ_Node4001!!32::PWM Node4001!!32::PWM gnd! 1e12
RHighZ_Node4060!!29::RESX Node4060!!29::RESX gnd! 1e12
RHighZ_Node41!!6::HDMI_DATA1_N Node41!!6::HDMI_DATA1_N gnd! 1e12
RHighZ_Node42!!C2::HDMI_CLK_N Node42!!C2::HDMI_CLK_N gnd! 1e12
RHighZ_Node4268!!20::N271809 Node4268!!20::N271809 gnd! 1e12
RHighZ_Node4269!!21::N271809 Node4269!!21::N271809 gnd! 1e12
RHighZ_Node4270!!22::N271809 Node4270!!22::N271809 gnd! 1e12
RHighZ_Node4275!!23::N271809 Node4275!!23::N271809 gnd! 1e12
RHighZ_Node43!!5::HDMI_CLK_N Node43!!5::HDMI_CLK_N gnd! 1e12
RHighZ_Node44!!12::HDMI_CLK_N Node44!!12::HDMI_CLK_N gnd! 1e12
RHighZ_Node45!!6::HDMI_CLK_N Node45!!6::HDMI_CLK_N gnd! 1e12
RHighZ_Node4811!!39::VCC_LED_AB Node4811!!39::VCC_LED_AB gnd! 1e12
RHighZ_Node4812!!40::VCC_LED_AB Node4812!!40::VCC_LED_AB gnd! 1e12
RHighZ_Node4822!!P4 Node4822!!P4 gnd! 1e12
RHighZ_Node4823!!P3 Node4823!!P3 gnd! 1e12
RHighZ_Node4824!!P2 Node4824!!P2 gnd! 1e12
RHighZ_Node4825!!P1 Node4825!!P1 gnd! 1e12
RHighZ_Node4826!!31 Node4826!!31 gnd! 1e12
RHighZ_Node4827!!30 Node4827!!30 gnd! 1e12
RHighZ_Node63!!B7::MIPI_DSI1_CLK_N Node63!!B7::MIPI_DSI1_CLK_N gnd! 1e12
RHighZ_Node64!!A7::MIPI_DSI1_CLK_P Node64!!A7::MIPI_DSI1_CLK_P gnd! 1e12
RHighZ_Node65!!B5::MIPI_DSI1_DATA3_N Node65!!B5::MIPI_DSI1_DATA3_N gnd! 1e12
RHighZ_Node66!!A5::MIPI_DSI1_DATA3_P Node66!!A5::MIPI_DSI1_DATA3_P gnd! 1e12
RHighZ_Node67!!B6::MIPI_DSI1_DATA2_N Node67!!B6::MIPI_DSI1_DATA2_N gnd! 1e12
RHighZ_Node68!!A6::MIPI_DSI1_DATA2_P Node68!!A6::MIPI_DSI1_DATA2_P gnd! 1e12
RHighZ_Node69!!B8::MIPI_DSI1_DATA1_N Node69!!B8::MIPI_DSI1_DATA1_N gnd! 1e12
RHighZ_Node9!!18::VCC_HDMIRX_IN Node9!!18::VCC_HDMIRX_IN gnd! 1e12
RHighZ_Node973!!16::MIPI_DSI1_CLK_N Node973!!16::MIPI_DSI1_CLK_N gnd! 1e12
********#Traces#*******
W_Trace2582::MIPI_DSI0_DATA3_P Node2939::MIPI_DSI0_DATA3_P gnd! Node2940::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.831420e-05 RLGCModel=Wmodel_Trace2582::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2499::MIPI_DSI0_DATA3_P Node2857::MIPI_DSI0_DATA3_P gnd! Node2849::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=3.437523e-04 RLGCModel=Wmodel_Trace2499::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2532::MIPI_DSI0_DATA3_P Node2890::MIPI_DSI0_DATA3_P gnd! Node2870::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.110555e-03 RLGCModel=Wmodel_Trace2532::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2576::MIPI_DSI0_DATA3_P Node2934::MIPI_DSI0_DATA3_P gnd! Node2914::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.090319e-03 RLGCModel=Wmodel_Trace2576::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2510::MIPI_DSI0_DATA3_P Node2868::MIPI_DSI0_DATA3_P gnd! Node2859::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=3.824780e-04 RLGCModel=Wmodel_Trace2510::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2554::MIPI_DSI0_DATA3_P Node2912::MIPI_DSI0_DATA3_P gnd! Node2892::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.090315e-03 RLGCModel=Wmodel_Trace2554::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2489::MIPI_DSI0_DATA3_P Node2846::MIPI_DSI0_DATA3_P gnd! Node2847::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=5.190000e-05 RLGCModel=Wmodel_Trace2489::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2487::MIPI_DSI0_DATA3_P Node2845::MIPI_DSI0_DATA3_P gnd! Node2843::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.521620e-04 RLGCModel=Wmodel_Trace2487::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2580::MIPI_DSI0_DATA3_P Node2937::MIPI_DSI0_DATA3_P gnd! Node2938::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=7.184205e-05 RLGCModel=Wmodel_Trace2580::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2059::MIPI_DSI0_DATA3_N Node2411!!1::MIPI_DSI0_DATA3_N gnd! Node2411!!1_Auto_89::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=7.300000e-05 RLGCModel=Wmodel_Trace2059::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2061::MIPI_DSI0_DATA3_N Node2414::MIPI_DSI0_DATA3_N gnd! Node2412::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=1.651173e-04 RLGCModel=Wmodel_Trace2061::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2583::MIPI_DSI0_DATA3_P Node2940::MIPI_DSI0_DATA3_P gnd! Node2940_Auto_55::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=8.450000e-05 RLGCModel=Wmodel_Trace2583::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2586::MIPI_DSI0_DATA3_P Node2943::MIPI_DSI0_DATA3_P gnd! Node2944::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.183548e-04 RLGCModel=Wmodel_Trace2586::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2054_Auto_6::MIPI_DSI0_DATA3_N Node2406_Auto_6::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_17::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=1.331356e-04 RLGCModel=Wmodel_Trace2054_Auto_6::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2579::MIPI_DSI0_DATA3_P Node2936::MIPI_DSI0_DATA3_P gnd! Node2936_Auto_25::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.355000e-04 RLGCModel=Wmodel_Trace2579::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2578_Auto_23::MIPI_DSI0_DATA3_P Node2934_Auto_23::MIPI_DSI0_DATA3_P gnd! Node2936::MIPI_DSI0_DATA3_P gnd!
+ N=1 L=1.355587e-04 RLGCModel=Wmodel_Trace2578_Auto_23::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2056::MIPI_DSI0_DATA3_N Node2408::MIPI_DSI0_DATA3_N gnd! Node2409::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=1.436841e-04 RLGCModel=Wmodel_Trace2056::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2485::MIPI_DSI0_DATA3_P Node2842::MIPI_DSI0_DATA3_P Node2406_Auto_5::MIPI_DSI0_DATA3_N gnd! 
+ Node2843::MIPI_DSI0_DATA3_P Node2406_Auto_6::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=1.527742e-04 RLGCModel=Wmodel_Trace2485::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2054_Auto_21::MIPI_DSI0_DATA3_N Node2406_Auto_21::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_13::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=1.890699e-04 RLGCModel=Wmodel_Trace2054_Auto_21::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2059_Auto_90::MIPI_DSI0_DATA3_N Node2411!!1_Auto_90::MIPI_DSI0_DATA3_N gnd! Node2412::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=1.907000e-04 RLGCModel=Wmodel_Trace2059_Auto_90::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2583_Auto_55::MIPI_DSI0_DATA3_P Node2940_Auto_55::MIPI_DSI0_DATA3_P Node2409::MIPI_DSI0_DATA3_N gnd! 
+ Node110!!D10::MIPI_DSI0_DATA3_P Node2409_Auto_56::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=2.245000e-04 RLGCModel=Wmodel_Trace2583_Auto_55::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2054_Auto_14::MIPI_DSI0_DATA3_N Node2406_Auto_14::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_9::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=2.274330e-04 RLGCModel=Wmodel_Trace2054_Auto_14::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2556::MIPI_DSI0_DATA3_P Node2912::MIPI_DSI0_DATA3_P Node2406_Auto_7::MIPI_DSI0_DATA3_N gnd! 
+ Node2914::MIPI_DSI0_DATA3_P Node2406_Auto_8::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=2.413635e-04 RLGCModel=Wmodel_Trace2556::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2512::MIPI_DSI0_DATA3_P Node2868::MIPI_DSI0_DATA3_P Node2406_Auto_9::MIPI_DSI0_DATA3_N gnd! 
+ Node2870::MIPI_DSI0_DATA3_P Node2406_Auto_10::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=2.415578e-04 RLGCModel=Wmodel_Trace2512::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2534::MIPI_DSI0_DATA3_P Node2890::MIPI_DSI0_DATA3_P Node2406_Auto_11::MIPI_DSI0_DATA3_N gnd! 
+ Node2892::MIPI_DSI0_DATA3_P Node2406_Auto_12::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=2.415578e-04 RLGCModel=Wmodel_Trace2534::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2501::MIPI_DSI0_DATA3_P Node2857::MIPI_DSI0_DATA3_P Node2406_Auto_13::MIPI_DSI0_DATA3_N gnd! 
+ Node2859::MIPI_DSI0_DATA3_P Node2406_Auto_14::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=2.844678e-04 RLGCModel=Wmodel_Trace2501::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2581::MIPI_DSI0_DATA3_P Node2938::MIPI_DSI0_DATA3_P Node2407_Auto_26::MIPI_DSI0_DATA3_N gnd! 
+ Node2939::MIPI_DSI0_DATA3_P Node2408::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=3.490501e-04 RLGCModel=Wmodel_Trace2581::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2057_Auto_56::MIPI_DSI0_DATA3_N Node2409_Auto_56::MIPI_DSI0_DATA3_N gnd! Node2410::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=3.607000e-04 RLGCModel=Wmodel_Trace2057_Auto_56::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2058::MIPI_DSI0_DATA3_N Node2410::MIPI_DSI0_DATA3_N gnd! Node105!!D9::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=4.091320e-04 RLGCModel=Wmodel_Trace2058::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2488::MIPI_DSI0_DATA3_P Node2845::MIPI_DSI0_DATA3_P Node2406_Auto_17::MIPI_DSI0_DATA3_N gnd! 
+ Node2846::MIPI_DSI0_DATA3_P Node2406_Auto_19::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=4.123140e-04 RLGCModel=Wmodel_Trace2488::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2059_Auto_89::MIPI_DSI0_DATA3_N Node2411!!1_Auto_89::MIPI_DSI0_DATA3_N Node2942::MIPI_DSI0_DATA3_P gnd! 
+ Node2411!!1_Auto_90::MIPI_DSI0_DATA3_N Node2943::MIPI_DSI0_DATA3_P gnd!
+ N=2 L=4.229000e-04 RLGCModel=Wmodel_Trace2059_Auto_89::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2490::MIPI_DSI0_DATA3_P Node2847::MIPI_DSI0_DATA3_P Node2406_Auto_19::MIPI_DSI0_DATA3_N gnd! 
+ Node2849::MIPI_DSI0_DATA3_P Node2406_Auto_21::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=7.248066e-04 RLGCModel=Wmodel_Trace2490::MIPI_DSI0_DATA3_P FGD=5.000000e+09
W_Trace2054_Auto_10::MIPI_DSI0_DATA3_N Node2406_Auto_10::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_11::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=7.492891e-04 RLGCModel=Wmodel_Trace2054_Auto_10::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2054_Auto_8::MIPI_DSI0_DATA3_N Node2406_Auto_8::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_22::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=7.495423e-04 RLGCModel=Wmodel_Trace2054_Auto_8::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2054_Auto_12::MIPI_DSI0_DATA3_N Node2406_Auto_12::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_7::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=7.502830e-04 RLGCModel=Wmodel_Trace2054_Auto_12::MIPI_DSI0_DATA3_N FGD=5.000000e+09
W_Trace2054::MIPI_DSI0_DATA3_N Node2406::MIPI_DSI0_DATA3_N gnd! Node2406_Auto_5::MIPI_DSI0_DATA3_N gnd!
+ N=1 L=9.020188e-04 RLGCModel=Wmodel_Trace2054::MIPI_DSI0_DATA3_N FGD=5.000000e+09
WCPL_Trace2578::MIPI_DSI0_DATA3_P Node2934::MIPI_DSI0_DATA3_P Node2406_Auto_22::MIPI_DSI0_DATA3_N gnd! 
+ Node2934_Auto_23::MIPI_DSI0_DATA3_P Node2407::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=1.416563e-03 RLGCModel=Wmodel_Trace2578::MIPI_DSI0_DATA3_P FGD=5.000000e+09
WCPL_Trace2579_Auto_25::MIPI_DSI0_DATA3_P Node2936_Auto_25::MIPI_DSI0_DATA3_P Node2407::MIPI_DSI0_DATA3_N gnd! 
+ Node2937::MIPI_DSI0_DATA3_P Node2407_Auto_26::MIPI_DSI0_DATA3_N gnd!
+ N=2 L=8.746100e-03 RLGCModel=Wmodel_Trace2579_Auto_25::MIPI_DSI0_DATA3_P FGD=5.000000e+09
********#End Traces#*******
********Wires********
********Leads********
********#Vias#********
Xvia0 Node2402::MIPI_DSI0_DATA3_N Node2418::MIPI_DSI0_DATA3_N Node2840::MIPI_DSI0_DATA3_P Node2948::MIPI_DSI0_DATA3_P gnd! Via73::MIPI_DSI0_DATA3_N
********#End Vias#********
**********#Pad CAP#**********
C_FILLETpad~polygon0112::mipi_dsi0_data3_p FILLETpad~polygon0112::mipi_dsi0_data3_p gnd! 3.41589205e-14
C_FILLETpad~polygon0114::mipi_dsi0_data3_n FILLETpad~polygon0114::mipi_dsi0_data3_n gnd! 3.07196843e-14
C_FILLETpad~polygon0119::mipi_dsi0_data3_n FILLETpad~polygon0119::mipi_dsi0_data3_n gnd! 2.01585106e-14
C_FILLETpad~polygon0262::mipi_dsi0_data3_n FILLETpad~polygon0262::mipi_dsi0_data3_n gnd! 4.74507110e-14
C_FILLETpad~polygon0338::mipi_dsi0_data3_p FILLETpad~polygon0338::mipi_dsi0_data3_p gnd! 3.63768431e-14
C_FILLETpad~polygon0410::mipi_dsi0_data3_p FILLETpad~polygon0410::mipi_dsi0_data3_p gnd! 9.33985774e-15
C_FILLETpad~polygon0413::mipi_dsi0_data3_n FILLETpad~polygon0413::mipi_dsi0_data3_n gnd! 9.29058678e-15
C_Node105!!D9::MIPI_DSI0_DATA3_N Node105!!D9::MIPI_DSI0_DATA3_N gnd! 1.38814872e-14
C_Node110!!D10::MIPI_DSI0_DATA3_P Node110!!D10::MIPI_DSI0_DATA3_P gnd! 1.38814872e-14
C_Node2411!!1::MIPI_DSI0_DATA3_N Node2411!!1::MIPI_DSI0_DATA3_N gnd! 3.02216857e-14
C_Node2941!!2::MIPI_DSI0_DATA3_P Node2941!!2::MIPI_DSI0_DATA3_P gnd! 4.38019643e-14
**********#End Pad CAP#**********
********#Node Connection#********
.connect FILLETpad~polygon0413::mipi_dsi0_data3_n Node105!!D9::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0410::mipi_dsi0_data3_p Node110!!D10::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0338::mipi_dsi0_data3_p Node2840::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0338::mipi_dsi0_data3_p Node2841::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0338::mipi_dsi0_data3_p Node2842::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0262::mipi_dsi0_data3_n Node2402::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0262::mipi_dsi0_data3_n Node2403::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0262::mipi_dsi0_data3_n Node2404::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0262::mipi_dsi0_data3_n Node2405::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0262::mipi_dsi0_data3_n Node2406::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0119::mipi_dsi0_data3_n Node2411!!1::MIPI_DSI0_DATA3_N
.connect Node2941!!2::MIPI_DSI0_DATA3_P Node2942::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0114::mipi_dsi0_data3_n Node2414::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0114::mipi_dsi0_data3_n Node2415::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0114::mipi_dsi0_data3_n Node2416::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0114::mipi_dsi0_data3_n Node2417::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0114::mipi_dsi0_data3_n Node2418::MIPI_DSI0_DATA3_N
.connect FILLETpad~polygon0112::mipi_dsi0_data3_p Node2944::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0112::mipi_dsi0_data3_p Node2945::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0112::mipi_dsi0_data3_p Node2946::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0112::mipi_dsi0_data3_p Node2947::MIPI_DSI0_DATA3_P
.connect FILLETpad~polygon0112::mipi_dsi0_data3_p Node2948::MIPI_DSI0_DATA3_P
********#End Node Connection#********
.ProbeMapping
X_CH1.Xpartial.1 0 CH1.1::MIPI_DSI0_DATA3_N GND MIPI_DSI0_DATA3_N
X_CH1.Xpartial.2 0 CH1.2::MIPI_DSI0_DATA3_P GND MIPI_DSI0_DATA3_P
X_CH1.Xpartial.2 X_CH1.Xpartial.1 CH1.2::MIPI_DSI0_DATA3_P CH1.1::MIPI_DSI0_DATA3_N MIPI_DSI0_DATA3_P||MIPI_DSI0_DATA3_N
X_U8.Xpartial.D10 0 U8.D10::MIPI_DSI0_DATA3_P GND MIPI_DSI0_DATA3_P
X_U8.Xpartial.D9 0 U8.D9::MIPI_DSI0_DATA3_N GND MIPI_DSI0_DATA3_N
X_U8.Xpartial.D10 X_U8.Xpartial.D9 U8.D10::MIPI_DSI0_DATA3_P U8.D9::MIPI_DSI0_DATA3_N MIPI_DSI0_DATA3_P||MIPI_DSI0_DATA3_N
.EndProbeMapping
.SPEED2000
.Mode = GeneralSI
.EndSPEED2000

.END