***Via model***
.SUBCKT Via22::MIPI_DSI1_CLK_N
+       Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N
+       Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P
+       ngnd

Cu_Node883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N ngnd 1.39627e-13
Cd_Node991::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N ngnd 1.77079e-13
Cu_Node992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P ngnd 1.39627e-13
Cd_Node1130::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P ngnd 1.77079e-13

LNode883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp  6.20105e-10
VRLNode883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp Node991::MIPI_DSI1_CLK_N 0 r_0= 0.000353029
LNode992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp  6.20105e-10
VRLNode992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp Node1130::MIPI_DSI1_CLK_P 0 r_0= 0.000353029
KNode992::MIPI_DSI1_CLK_PNode883::MIPI_DSI1_CLK_N LNode992::MIPI_DSI1_CLK_P LNode883::MIPI_DSI1_CLK_N 0.30018
.ENDS 

